US04880809
A mixture of 7-methoxy-1,2-dihydro-3-naphthoic acid [Jacques et al., Bull. Soc. Chim. Fr., 512 (1950)] (2 g), benzene (50 ml) and thionyl chloride (2 ml) is heated under reflux for one hour. After distilling off the solvent under reduced pressure, benzene (50 ml) is added and the benzene is distilled off again under reduced pressure. The 7-methoxy-1,2-dihydro-3-naphthoyl chloride thus obtained is dissolved in dioxane (10 ml). The solution is added dropwise to a mixture of 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (2.6 g), dioxane (50 ml) and triethylamine (5 ml) at room temperature with stirring. Then the mixture is stirred at room temperature for 30 minutes. Water (300 ml) is added to the mixture, which is extracted with ethyl acetate. The extract solution is washed with a dilute aqueous solution of sodium hydroxide and water, then the solvent is distilled off under reduced pressure. The resulting oily substance is purified by silica gel column chromatography (hexane:acetone=1:1). The product thus obtained is dissolved in ethanol and the solution is treated with on ethanolic hydrogen chloride (5 ml) to give 1-(7-methoxy-1,2-dihydro-3-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (2.9 g) as colorless crystals, m.p. 210°-215° C. (decomp.).

reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 2.6 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | Water | 300 ml | O | H2O
reactant | hydrogen chloride | 5 ml | Cl | ClH
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 1-(7-methoxy-1,2-dihydro-3-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 2.9 g | Cl.COC1=CC=C2C=C(CCC2=C1)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C26H32N2O5.ClH/c1-30-22-8-7-19-15-21(6-5-20(19)16-22)26(29)28-11-9-27(10-12-28)17-18-13-23(31-2)25(33-4)24(14-18)32-3;/h7-8,13-16H,5-6,9-12,17H2,1-4H3;1H
